US06780869B1
2-(Methylthio)-4-[4-(methylthio)phenyl]-6-(trifluoromethyl)pyrimidine
To a mixture of 4,4,4-trifluoro-1-[4-(methylthio)phenyl]butane-1,3-dione (5 g) and 2-methyl-2-thiopseudourea sulfate (5.1 g, 0.98 eq) in acetic acid (100 ml) was added sodium acetate (3 g, 2 eq) and heated under reflux for 8 h. The mixture was concentrated in vacuo and water (100 ml) added to give a solid, which was isolated by filtration to give the title compound as a yellow solid (5.8 g, quantitative).

reactant | 4,4,4-trifluoro-1-[4-(methylthio)phenyl]butane-1,3-dione | 5 g | FC(C(CC(=O)C1=CC=C(C=C1)SC)=O)(F)F | C11H9F3O2S
reactant | 2-methyl-2-thiopseudourea sulfate | 5.1 g, 0.98 eq | S(=O)(=O)(O)O.CSC(N)=N
reactant | sodium acetate | 3 g, 2 eq | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-(Methylthio)-4-[4-(methylthio)phenyl]-6-(trifluoromethyl)pyrimidine | 5.8 g | CSC1=NC(=CC(=N1)C1=CC=C(C=C1)SC)C(F)(F)F | C13H11F3N2S2
